US05273680
To a mixture of 1,2-difluorobenzene (0.1 mol) and 100 ml THF a mixture of n-butyllithium (0.105 ml) and 60 ml hexane is added at -70° C. After stirring for 6 h a mixture of 4-(p-propylphenyl)-cyclohexanone (0.1 mol) and 50 ml THF is added. After stirring for 2 h, warming to room temperatures, boiling with PTSA as described for 10A and usual work-up 1-(difluoro-phenyl)-4-(p-propylphenyl)-cyclohex-1-ene is obtained.

reactant | 1,2-difluorobenzene | 0.1 mol | FC1=C(C=CC=C1)F | C6H4F2
reactant | n-butyllithium | 0.105 ml | C(CCC)[Li]
reactant | 4-(p-propylphenyl)-cyclohexanone | 0.1 mol | C(CC)C1=CC=C(C=C1)C1CCC(CC1)=O | C15H20O
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hexane | 60 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(difluoro-phenyl)-4-(p-propylphenyl)-cyclohex-1-ene | FC=1C(=C(C=CC1)C1=CCC(CC1)C1=CC=C(C=C1)CCC)F | C21H22F2
